US06610734B2
Acetyl chloride (0.15 g, 1.894 mmol) was added dropwise (5 min) as a solution in CH2Cl2 (1 mL) to a cold 0° C. solution of N-[4-(hydroxymethyl)piperidin-4-yl]-5-chloro-thiophene-2-sulfonamide (0.19 g, 0.61 mmol) in CH2Cl2 (5 mL) and triethylamine (0.44 mL, 3.18 mmol) The solution was allowed to warm to 25° C. overnight (19 h). An aliquot was taken and TLC (1:1 EtOAc-hexane) indicated that reaction was complete. It was diluted with CH2Cl2 (10 mL) and the organic layer was washed with 1N HCl (50 mL), saturated aqueous NaHCO3 (50 mL) and NaCl (50 mL). The organic layer was dried over MgSO4, filtered, and concentrated to obtain a crude oil (175 mg). The crude product was purified by column chromatography, silica gel 230-400 mesh, eluent: starting with 1:4 EtOAc-hexane and ending with 1:1 EtOAc-hexane to afford N-[1-Acetyl-4-(hydroxymethyl)-piperidin-4-yl]-5-chlorothiophene-2-sulfonamide as yellowish color oil (62 mg, 28.9%). Mass Spectrum (+ESI): 353 (M+H)+. Anal. Calc'd for C12H17ClN2O4S2.1.62H2O: C, 37.29; H, 5.70; N, 7.26. Found: C, 37.62; H, 5.36; N, 7.31.

reactant | Acetyl chloride | 1.894 mmol, 0.15 g | C(C)(=O)Cl | C2H3ClO
reactant | N-[4-(hydroxymethyl)piperidin-4-yl]-5-chloro-thiophene-2-sulfonamide | 0.61 mmol, 0.19 g | OCC1(CCNCC1)NS(=O)(=O)C=1SC(=CC1)Cl | C10H15ClN2O3S2
reactant | triethylamine | 3.18 mmol, 0.44 mL | C(C)N(CC)CC | C6H15N
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[1-Acetyl-4-(hydroxymethyl)-piperidin-4-yl]-5-chlorothiophene-2-sulfonamide | C(C)(=O)N1CCC(CC1)(CO)NS(=O)(=O)C=1SC(=CC1)Cl | C12H17ClN2O4S2
